US05696248
1a) 2,2-Dimethyl-4-hydroxybutyl-1,3-dioxolane
15 g (112 mmol) of 1,2,6-hexanetriol were dissolved together with 0.5 g of FeCl3 in 1 l of acetone and boiled under reflux for 7 h. The mixture was filtered, and excess acetone was removed by distillation, resulting in the product in pure form.

reactant | 1,2,6-hexanetriol | 112 mmol, 15 g | C(C(CCCCO)O)O | C6H14O3
reactant | acetone | 1 l | CC(=O)C | C3H6O
product | 2,2-Dimethyl-4-hydroxybutyl-1,3-dioxolane | CC1(OCC(O1)CCCCO)C | C9H18O3
